US04877802
(A) Preparation of methyl thiazole-5-carboxylate
Methyl 2-aminothiazole-5-carboxylate (79 g, 0.5 mol) was added over a period of 2 hours to a boiling solution of amyl nitrite (117.0 g, 1.0 mol) in dioxan (1 liter). After refluxing for a further half hour, the solvent was removed under reduced pressure and the residue was steam distilled to give a yellow oil which, on trituration with petroleum ether, gave the desired product as a white solid (32.0 g), m.pt. 68° C.

reactant | Methyl 2-aminothiazole-5-carboxylate | 0.5 mol, 79 g | NC=1SC(=CN1)C(=O)OC | C5H6N2O2S
reactant | amyl nitrite | 1.0 mol, 117.0 g | N(=O)OCCCCC | C5H11NO2
solvent | dioxan | 1 liter | O1CCOCC1 | C4H8O2
product | methyl thiazole-5-carboxylate | 32.0 g | S1C=NC=C1C(=O)OC | C5H5NO2S
